US07687643B2
Step A—Preparation of (2-chloro(3-pyridyl))-N-(4-phenoxy-phenyl)carboxamide
2-Chloronicotinic acid (0.78 g, 5.0 mmol) and TEA (1.6 ml, 10.0 mmol) were added to anhydrous THF (50 ml) under a N2 atmosphere at 0° C. After stirring for 5 min, ethyl chloroformate (0.54 g, 5.0 mmol) was added dropwise and the mixture gradually came to RT over a period of 1 h. 4-Phenoxyaniline (0.83 g, 5.0 mmol) was added and the mixture was stirred for 14 h. The mixture was partitioned between H2O and EtOAc. The aqueous layer was extracted two additional times with EtOAc (50 ml). The combined organic layers were then washed with brine, dried over Na2SO4, and evaporated. The resulting brown oil was used directly in the subsequent reaction without further purification. MS m/z:325 (M+1). Calc'd for C18H13ClN2O2:324.07.

reactant | 2-Chloronicotinic acid | 5.0 mmol, 0.78 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | ethyl chloroformate | 5.0 mmol, 0.54 g | ClC(=O)OCC | C3H5ClO2
reactant | 4-Phenoxyaniline | 5.0 mmol, 0.83 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (2-chloro(3-pyridyl))-N-(4-phenoxy-phenyl)carboxamide | ClC1=NC=CC=C1C(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C18H13ClN2O2
